US06329367B1
6-Chloro-3-(2-hydroxy-1,1-dimethylethylamino)-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
A solution of 3,6-dichloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide (0.3 g, 1.17 mmol) in 2-amino-2-methyl-1-propanol (2 ml, 21 mmol) was stirred for 40 h at 120° C. in a sealed flask. Water (5 ml) was added to the cooled solution and pH was adjusted to <2 by the addition of 4M hydrochloric acid. The resulting precipitate was isolated by filtration, washed with water, and recrystallised from methanol/water to give 51 mg (14%) of the pure title compound; mp 224-226° C.; 1H-NMR (DMSO-d6): δ1.30 (s, 6H), 3.43 (s, 2H), 5,17 (br s, 1H), 6.63 (br s, 1H), 7.10 (s, 1H), 10.90 (s, 1H); MS: m/e 309/311 (M+).

reactant | 3,6-dichloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 1.17 mmol, 0.3 g | ClC1=NS(C2=C(N1)C=C(S2)Cl)(=O)=O | C5H2Cl2N2O2S2
reactant | 2-amino-2-methyl-1-propanol | 21 mmol, 2 ml | NC(CO)(C)C | C4H11NO
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | Water | 5 ml | O | H2O
product | 6-Chloro-3-(2-hydroxy-1,1-dimethylethylamino)-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 51 mg, 14% | ClC1=CC=2NC(=NS(C2S1)(=O)=O)NC(CO)(C)C | C9H12ClN3O3S2
